US09145419B2
3D. 8-(4-Methylpyridin-3-yl)imidazo[1,2-b]pyridazine
To a suspension of 6-chloro-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine (800 mg, 3.27 mmol) in ethanol (80 mL) were added ammonium formate (825 mg, 13.08 mmol) and palladium hydroxide on carbon (459 mg, 0.327 mmol) (20% wet) under nitrogen. The suspension was heated to 70° C. in a sealed pressure bottle for 2 h and cooled to room temperature. The reaction mixture was passed through a pad of CELITE® and washed with MeOH. The filtrate was concentrated and the residue was used for the next step without further purification. 1H NMR (400 MHz, CDCl3) δ ppm 8.53-8.67 (2H, m), 8.43 (1H, d, J=4.53 Hz), 8.09 (1H, d, J=1.26 Hz), 7.81 (1H, d, J=1.01 Hz), 7.31 (1H, d, J=5.04 Hz), 6.99 (1H, d, J=4.53 Hz), 2.33 (3H, s); LC/MS: Rt=0.21 min. LC/MS (Condition A): 211.18.

reactant | 6-chloro-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine | 3.27 mmol, 800 mg | ClC=1C=C(C=2N(N1)C=CN2)C=2C=NC=CC2C | C12H9ClN4
reactant | ammonium formate | 13.08 mmol, 825 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.327 mmol, 459 mg | [OH-].[OH-].[Pd+2]
product | 8-(4-Methylpyridin-3-yl)imidazo[1,2-b]pyridazine | CC1=C(C=NC=C1)C=1C=2N(N=CC1)C=CN2 | C12H10N4
